*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-401
* Inductance = 400nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-401_freq port1 port2 PARAMS: Cpar=19.1pF Ind=0.4uH
X1 port1 port2 Model1A PARAMS:
+ R1=8.1
+ R2=0.0005
+ C= {Cpar}
+ K1=0.000001
+ K2=0.048
+ K3= {Ind}
+ K4=0.0046
+ K5=0.0000034
+ L=3.795E-07
+ Is=282.6682
+ a=0.7014
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=321.154962
.ends XAL1580-401_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-401
* Inductance = 400nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-401_sat port1 port2 PARAMS: Cpar=17.941pF Ind=0.4uH
X1 port1 port2 Model1C PARAMS:
+ R1=8.1
+ R2=0.0005
+ C= {Cpar}
+ K1=0.000001
+ K2=0.048
+ K3= {Ind}
+ K4=0.0046
+ K5=0.0000034
+ L=3.795E-07
+ Is=282.6682
+ a=0.7014
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=321.154962
.ends XAL1580-401_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-741
* Inductance = 740nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-741_freq port1 port2 PARAMS: Cpar=24.7pF Ind=0.74uH
X1 port1 port2 Model1A PARAMS:
+ R1=4.41
+ R2=0.00072
+ C= {Cpar}
+ K1=0.000001
+ K2=0.107
+ K3= {Ind}
+ K4=0.0046
+ K5=0.0000034
+ L=7.082E-07
+ Is=250.2105
+ a=0.659
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=598.094832
.ends XAL1580-741_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-741
* Inductance = 740nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-741_sat port1 port2 PARAMS: Cpar=23.957pF Ind=0.74uH
X1 port1 port2 Model1C PARAMS:
+ R1=4.41
+ R2=0.00072
+ C= {Cpar}
+ K1=0.000001
+ K2=0.107
+ K3= {Ind}
+ K4=0.0046
+ K5=0.0000034
+ L=7.082E-07
+ Is=250.2105
+ a=0.659
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=598.094832
.ends XAL1580-741_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-102_freq port1 port2 PARAMS: Cpar=23.5pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=5.7
+ R2=0.00093
+ C= {Cpar}
+ K1=0.000001
+ K2=0.161
+ K3= {Ind}
+ K4=0.00586
+ K5=0.027
+ L=9.658E-07
+ Is=238.1157
+ a=0.5899
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=828.33104
.ends XAL1580-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-102_sat port1 port2 PARAMS: Cpar=21.614pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=5.7
+ R2=0.00093
+ C= {Cpar}
+ K1=0.000001
+ K2=0.161
+ K3= {Ind}
+ K4=0.00586
+ K5=0.027
+ L=9.658E-07
+ Is=238.1157
+ a=0.5899
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=828.33104
.ends XAL1580-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-132_freq port1 port2 PARAMS: Cpar=21.4pF Ind=1.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=5.33
+ R2=0.00115
+ C= {Cpar}
+ K1=0.000001
+ K2=0.175
+ K3= {Ind}
+ K4=0.0118
+ K5=0.261
+ L=1.2084E-06
+ Is=209.066
+ a=0.6432
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=906.500194
.ends XAL1580-132_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-132_sat port1 port2 PARAMS: Cpar=18.316pF Ind=1.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=5.33
+ R2=0.00115
+ C= {Cpar}
+ K1=0.000001
+ K2=0.175
+ K3= {Ind}
+ K4=0.0118
+ K5=0.261
+ L=1.2084E-06
+ Is=209.066
+ a=0.6432
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=906.500194
.ends XAL1580-132_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-182_freq port1 port2 PARAMS: Cpar=27.4pF Ind=1.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=4.7
+ R2=0.00161
+ C= {Cpar}
+ K1=0.000001
+ K2=0.261
+ K3= {Ind}
+ K4=0.00059
+ K5=1
+ L=1.7375E-06
+ Is=178.4216
+ a=0.6016
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1141.93724
.ends XAL1580-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-182_sat port1 port2 PARAMS: Cpar=27.248pF Ind=1.8uH
X1 port1 port2 Model1C PARAMS:
+ R1=4.7
+ R2=0.00161
+ C= {Cpar}
+ K1=0.000001
+ K2=0.261
+ K3= {Ind}
+ K4=0.00059
+ K5=1
+ L=1.7375E-06
+ Is=178.4216
+ a=0.6016
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1141.93724
.ends XAL1580-182_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-202_freq port1 port2 PARAMS: Cpar=29.4pF Ind=2uH
X1 port1 port2 Model1A PARAMS:
+ R1=4.52
+ R2=0.00191
+ C= {Cpar}
+ K1=0.000001
+ K2=0.324
+ K3= {Ind}
+ K4=0.00568
+ K5=1
+ L=1.9947E-06
+ Is=198.7829
+ a=0.5438
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1353.09238
.ends XAL1580-202_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-202_sat port1 port2 PARAMS: Cpar=27.993pF Ind=2uH
X1 port1 port2 Model1C PARAMS:
+ R1=4.52
+ R2=0.00191
+ C= {Cpar}
+ K1=0.000001
+ K2=0.324
+ K3= {Ind}
+ K4=0.00568
+ K5=1
+ L=1.9947E-06
+ Is=198.7829
+ a=0.5438
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1353.09238
.ends XAL1580-202_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-302
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-302_freq port1 port2 PARAMS: Cpar=29pF Ind=3uH
X1 port1 port2 Model1A PARAMS:
+ R1=5.15
+ R2=0.00262
+ C= {Cpar}
+ K1=0.000001
+ K2=0.4
+ K3= {Ind}
+ K4=0.00872
+ K5=1
+ L=2.9143E-06
+ Is=125.6658
+ a=0.6615
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1538.22841
.ends XAL1580-302_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-302
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-302_sat port1 port2 PARAMS: Cpar=27.596pF Ind=3uH
X1 port1 port2 Model1C PARAMS:
+ R1=5.15
+ R2=0.00262
+ C= {Cpar}
+ K1=0.000001
+ K2=0.4
+ K3= {Ind}
+ K4=0.00872
+ K5=1
+ L=2.9143E-06
+ Is=125.6658
+ a=0.6615
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1538.22841
.ends XAL1580-302_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-452
* Inductance = 4.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-452_freq port1 port2 PARAMS: Cpar=29.2pF Ind=4.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=5.68
+ R2=0.00382
+ C= {Cpar}
+ K1=0.000001
+ K2=0.586
+ K3= {Ind}
+ K4=0.0372
+ K5=1
+ L=4.0338E-06
+ Is=108.9752
+ a=0.6763
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2065.15076
.ends XAL1580-452_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-452
* Inductance = 4.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-452_sat port1 port2 PARAMS: Cpar=25.23pF Ind=4.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=5.68
+ R2=0.00382
+ C= {Cpar}
+ K1=0.000001
+ K2=0.586
+ K3= {Ind}
+ K4=0.0372
+ K5=1
+ L=4.0338E-06
+ Is=108.9752
+ a=0.6763
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2065.15076
.ends XAL1580-452_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-532
* Inductance = 5.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-532_freq port1 port2 PARAMS: Cpar=29.2pF Ind=5.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=7.28
+ R2=0.00435
+ C= {Cpar}
+ K1=0.000001
+ K2=0.626
+ K3= {Ind}
+ K4=0.0074
+ K5=1
+ L=4.7622E-06
+ Is=102.3204
+ a=0.6643
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2061.46148
.ends XAL1580-532_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-532
* Inductance = 5.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-532_sat port1 port2 PARAMS: Cpar=28.533pF Ind=5.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=7.28
+ R2=0.00435
+ C= {Cpar}
+ K1=0.000001
+ K2=0.626
+ K3= {Ind}
+ K4=0.0074
+ K5=1
+ L=4.7622E-06
+ Is=102.3204
+ a=0.6643
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2061.46148
.ends XAL1580-532_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-612
* Inductance = 6.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1580-612_freq port1 port2 PARAMS: Cpar=27.6pF Ind=6.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=9.58
+ R2=0.00566
+ C= {Cpar}
+ K1=0.000001
+ K2=0.833
+ K3= {Ind}
+ K4=0.000037
+ K5=1
+ L=5.8116E-06
+ Is=100.0868
+ a=0.617
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2589.9297
.ends XAL1580-612_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1580-612
* Inductance = 6.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1580-612_sat port1 port2 PARAMS: Cpar=27.597pF Ind=6.1uH
X1 port1 port2 Model1C PARAMS:
+ R1=9.58
+ R2=0.00566
+ C= {Cpar}
+ K1=0.000001
+ K2=0.833
+ K3= {Ind}
+ K4=0.000037
+ K5=1
+ L=5.8116E-06
+ Is=100.0868
+ a=0.617
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2589.9297
.ends XAL1580-612_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout flux={L*Is}*pwrs(tanh(pwrs((x/{Is}),{a})),{1/a})
.ends Model1C





*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
